US08349824B2
The product was prepared in the same manner as described in example 3 using 5-(2-(3-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (70 mg, 184 μmol) and morpholine (16 μl, 184 μmol) as starting materials. The reaction affords 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(3-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide (44 mg, 53.2%) as white solid. mp.: 212-214° C., MS: m/z=450.0 (M+H+).

reactant | 5-(2-(3-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 184 μmol, 70 mg | FC=1C=C(C=CC1)C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C18H13FN6O3
reactant | morpholine | 184 μmol, 16 μl | N1CCOCC1 | C4H9NO
product | 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(3-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide | 44 mg, 53.2% | FC=1C=C(C=CC1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C)=N1 | C22H20FN7O3
